US04082843
3-(3-Hydroxy-4-nitrobenzoyl)propionic acid in ammonium hydroxide solution was reduced with ferrous sulphate to give 3-(4-amino-3-hydroxybenzoyl)propionic acid.

reactant | 3-(3-Hydroxy-4-nitrobenzoyl)propionic acid | OC=1C=C(C(=O)CCC(=O)O)C=CC1[N+](=O)[O-] | C10H9NO6
solvent | ammonium hydroxide | [OH-].[NH4+]
product | 3-(4-amino-3-hydroxybenzoyl)propionic acid | NC1=C(C=C(C(=O)CCC(=O)O)C=C1)O | C10H11NO4
